US08802663B2
Step 2: 1-(4-{5-[1-isobutyl-5-(methoxymethyl)-1H-pyrazol-4-yl]-1,2,4-oxadiazol-3-yl}benzyl)azetidine-3-carboxylic acid
The title compound was prepared following the procedure described for Example 64 (step 2), but starting from 4-{5-[1-isobutyl-5-(methoxymethyl)-1H-pyrazol-4-yl]-1,2,4-oxadiazol-3-yl}benzaldehyde, obtained from step 1, (170.2 mg; 0.50 mmol) and using 3-azetidine carboxylic acid (101.1 mg; 1.0 mmol) to give Example 76 as a white solid. 1H NMR (CDCl3, 400 MHz) δ 8.14-8.11 (3 H, m), 7.56 (2 H, d, J=8.0 Hz), 4.99 (2 H, s), 4.17 (2 H, s), 4.13-4.09 (2 H, m), 4.05 (2 H, d, J=7.6 Hz), 3.97 (2 H, t, J=9.3 Hz), 3.43-3.38 (4 H, m), 2.41-2.32 (1 H, m), 0.95 (6 H, d, J=6.7 Hz). LC/MS: 426 (M+H)+. HPLC (Method A) Rt=2.32 min (Purity: 99.3%).

reactant | 4-{5-[1-isobutyl-5-(methoxymethyl)-1H-pyrazol-4-yl]-1,2,4-oxadiazol-3-yl}benzaldehyde | C(C(C)C)N1N=CC(=C1COC)C1=NC(=NO1)C1=CC=C(C=O)C=C1 | C18H20N4O3
reactant | 3-azetidine carboxylic acid | 1.0 mmol, 101.1 mg | N1CC(C1)C(=O)O | C4H7NO2
product | 1-(4-{5-[1-isobutyl-5-(methoxymethyl)-1H-pyrazol-4-yl]-1,2,4-oxadiazol-3-yl}benzyl)azetidine-3-carboxylic acid | C(C(C)C)N1N=CC(=C1COC)C1=NC(=NO1)C1=CC=C(CN2CC(C2)C(=O)O)C=C1 | C22H27N5O4
